US04261996
Methyl 2-amino-3,5-dimethoxybenzoate.
A mixture of methyl 3,5-dimethoxy-2-nitrobenzoate (Ger 501,609, April 2, 1927; CA. 24, 47929) (39.0 g; 0.162 mole), 5% Pd on charcoal (2.0 g), methanol (200 ml) and tetrahydrofuran (200 ml) is shaken in an atmosphere of hydrogen at 52 lb pressure for 46 h when theoretical amount of hydrogen is absorbed. The catalyst is filtered off and the filtrate is evaporated to dryness. The residue is recrystallized from methanol. Yield 28.6 g; mp 93°-5°.

reactant | methyl 3,5-dimethoxy-2-nitrobenzoate | 0.162 mole, 39.0 g | COC=1C(=C(C(=O)OC)C=C(C1)OC)[N+](=O)[O-] | C10H11NO6
reactant | methanol | 200 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Pd on charcoal | 2.0 g | [Pd] | Pd
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Methyl 2-amino-3,5-dimethoxybenzoate | NC1=C(C(=O)OC)C=C(C=C1OC)OC | C10H13NO4
